US07141586B2
4M Hydrochloric acid in dioxan (40 ml, 160 mmol) was added to a solution of the less polar diastereoisomer of tert-butyl 2-hydroxy-2-methylcyclohexylcarbamate (875 mg, 3.82 mmol) in dioxan (5 ml). The mixture was stirred for 4 h then the solvent was removed under reduced pressure and the residue dried in vacuo to afford a single diastereoisomer of 2-amino-1-methylcyclohexanol hydrochloride (656 mg) as a white solid.

reactant | Hydrochloric acid | 4M | Cl | ClH
reactant | tert-butyl 2-hydroxy-2-methylcyclohexylcarbamate | 3.82 mmol, 875 mg | OC1(C(CCCC1)NC(OC(C)(C)C)=O)C | C12H23NO3
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 160 mmol, 40 ml | O1CCOCC1 | C4H8O2
product | 2-amino-1-methylcyclohexanol hydrochloride | 656 mg | Cl.NC1C(CCCC1)(O)C | InChI=1S/C7H15NO.ClH/c1-7(9)5-3-2-4-6(7)8;/h6,9H,2-5,8H2,1H3;1H
